2127-09-26 07:25:00 Physician Resident Progress Note
Chief Complaint: Found Unresponsive
   24 Hour Events:
 MULTI LUMEN - START [**2127-9-25**] 03:03 PM
   from ED
   Responded, episodes being more alert and oriented.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-9-25**] 07:39 PM
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ampicillin - [**2127-9-26**] 04:49 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2127-9-25**] 04:35 PM
   Pantoprazole (Protonix) - [**2127-9-25**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 70 (63 - 71) bpm
   BP: 137/91(102) {105/69(78) - 148/122(128)} mmHg
   RR: 10 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 14 (8 - 19)mmHg
   CO/CI (Fick): (5.1 L/min) / (3.3 L/min/m2)
   SvO2: 72%
   Total In:
                                                                    440 mL
                                                                    727 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                    143 mL
                                                                    137 mL
   Urine:
                                                                     78 mL
                                                                    137 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVP not
   visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x0,
   Movement: Purposeful, Tone: Increased
   Labs / Radiology
   154 K/uL
   10.1 g/dL
   74 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.6 mEq/L
   61 mg/dL
   105 mEq/L
   142 mEq/L
   33.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
   WBC
   10.1
   Hct
   33
   33.1
   Plt
   154
   Cr
   3.7
   TropT
   0.18
   Glucose
   74
   Other labs: PT / PTT / INR:71.5/41.7/8.8, CK / CKMB /
   Troponin-T:73/4/0.18, ALT / AST:[**Telephone/Fax (1) 5629**], Alk Phos / T Bili:91/1.1,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:3.3 mmol/L, Albumin:2.4 g/dL, LDH:[**2031**] IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-26 07:25:00 Physician Resident Progress Note
Chief Complaint: Found Unresponsive
   24 Hour Events:
 MULTI LUMEN - START [**2127-9-25**] 03:03 PM
   from ED
   Responded, episodes being more alert and oriented.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-9-25**] 07:39 PM
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ampicillin - [**2127-9-26**] 04:49 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2127-9-25**] 04:35 PM
   Pantoprazole (Protonix) - [**2127-9-25**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 70 (63 - 71) bpm
   BP: 137/91(102) {105/69(78) - 148/122(128)} mmHg
   RR: 10 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 14 (8 - 19)mmHg
   CO/CI (Fick): (5.1 L/min) / (3.3 L/min/m2)
   SvO2: 72%
   Total In:
                                                                    440 mL
                                                                    727 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                    143 mL
                                                                    137 mL
   Urine:
                                                                     78 mL
                                                                    137 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVP not
   visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x0,
   Movement: Purposeful, Tone: Increased
   Labs / Radiology
   154 K/uL
   10.1 g/dL
   74 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.6 mEq/L
   61 mg/dL
   105 mEq/L
   142 mEq/L
   33.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
   WBC
   10.1
   Hct
   33
   33.1
   Plt
   154
   Cr
   3.7
   TropT
   0.18
   Glucose
   74
   Other labs: PT / PTT / INR:71.5/41.7/8.8, CK / CKMB /
   Troponin-T:73/4/0.18, ALT / AST:[**Telephone/Fax (1) 5629**], Alk Phos / T Bili:91/1.1,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:3.3 mmol/L, Albumin:2.4 g/dL, LDH:[**2031**] IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: patient initially found to be unresponsive by
   husband- seems as though she had been lethargic for at least 10 days.
   She also has been profoundly hypothyroid in the past and also
   alzheimers dementia with fluctuating mental status.  She was found with
   very low glucose. She is awake, but not following commands. Sometimes
   can be verbal.  TSH 36, borderline cardiac enzymes (0.21) in the
   setting of acute renal failure over CKD. Patient did not responded to
   narcan and now has a negative serum tox with a pending urine tox. She
   has been hemodinamically stable.
   - Follow urine tox
   - Increase levothyroxine
   - Treat renal failure (see below)
   - Monitor hemodinamics
   .
   # Lactic Acidosis: Most likely in the setting of fasting, being down
   and with low sugar. Hemodinamics and vital signs do not suggest
   infection. Awaiting culture data. No data to support cardiogenic shock
   with tissue ischemia or abdominal pain and mesenteric ischemia. Lactate
   3.3.
   - continue to trend lactate
   - treat infectious causes as above.
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones. Patient on diuretics before admission,
   so FeUrea more accurate and pointing to pre-renal. There were no castas
   in the urine to suggest ATN.
   .
   # FEVER: u/a negative, blood cultures sent.  CXR and non contrast CT
   abdomen / pelvis.  F/u blood cultures.
   -given mental status changes and inability to do an LP would feel
   compelled to treat for meningitis.  She has been given Ceftriaxone and
   vancomycin in the ED at meningitis doses and we will add ampicillin as
   well.  No other clear source for infection however given elevated
   lactate.  Given no clear GI source will d/c flagyl.
   -continue to monitor fever curve
   -has gotten 3L fluid to decrease lactate but never was hypotensive, has
   an EF of 20%, will hold off on additional fluids
   -vancomycin, given renal failure will need to dose renally- given 1x
   dose, check level in a.m. and dose per level
   .
   # Elevated LFTs: possibly from hypotension given elevated lactate,
   although never recorded hypotension.  Continue to trend.  RUQ
   ultrasound normal.
   -obtain abd ultrasound with doppler
   -given hep C, acute viral hepatitis is a possibility, not in acute
   phase of hep C but could be superimposed hep A or hep B, send hep A IgG
   and IgM and Hep B antibody panel.
   -tylenol level not elevated
   .
   # Macrocytic Anemia: send B12, and folate but could also be
   hypothyroidism.
   .
   # Hypoglycemia: not eating lately and previously had been on insulin.
   Will continue to monitor for hypoglycemia but unclear why she had a
   finger stick glucose of 20.  It is possible that this was erroneous as
   she is not on any glucose lowering medications and the glucose levels
   below 70 or so are not very accurate on finger stick glucometers.
   -continue to monitor, if hypoglycemic will send a serum glucose,
   insulin level and C peptide level
   -q6 finger sticks
   -possibly related to infection
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   -maintain euvolemia as long as BP is okay
   -TTE as above
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: no bleeding, INR 5.6, likely secondary to coumadin,
   recent dose increase and also possibly lack of nutrtition lately.
   .
   # FEN:  NPO for now given mental status
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   # Code:  unable to assess
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-26 07:25:00 Physician Resident Progress Note
Chief Complaint: Found Unresponsive
   24 Hour Events:
 MULTI LUMEN - START [**2127-9-25**] 03:03 PM
   from ED
   Responded, episodes being more alert and oriented.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-9-25**] 07:39 PM
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ampicillin - [**2127-9-26**] 04:49 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2127-9-25**] 04:35 PM
   Pantoprazole (Protonix) - [**2127-9-25**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 70 (63 - 71) bpm
   BP: 137/91(102) {105/69(78) - 148/122(128)} mmHg
   RR: 10 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 14 (8 - 19)mmHg
   CO/CI (Fick): (5.1 L/min) / (3.3 L/min/m2)
   SvO2: 72%
   Total In:
                                                                    440 mL
                                                                    727 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                    143 mL
                                                                    137 mL
   Urine:
                                                                     78 mL
                                                                    137 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVP not
   visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x0,
   Movement: Purposeful, Tone: Increased
   Labs / Radiology
   154 K/uL
   10.1 g/dL
   74 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.6 mEq/L
   61 mg/dL
   105 mEq/L
   142 mEq/L
   33.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
   WBC
   10.1
   Hct
   33
   33.1
   Plt
   154
   Cr
   3.7
   TropT
   0.18
   Glucose
   74
   Other labs: PT / PTT / INR:71.5/41.7/8.8, CK / CKMB /
   Troponin-T:73/4/0.18, ALT / AST:[**Telephone/Fax (1) 5629**], Alk Phos / T Bili:91/1.1,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:3.3 mmol/L, Albumin:2.4 g/dL, LDH:[**2031**] IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found hypoglycemic with unknown
   etiology. Also fever in ER and hypothermia in ICU with increase WBC.
   Patient MS now at her baseline. THS better than before at 36. Did not
   respond to narcan, serum tox negative, u tox pending. Most likely
   ideology is meningitis; however cannot do LP with high INR and she has
   already gotten antibiotics. No changes in personality and now
   improving, so not likely to be HSV. Rapid improvement for viral.
   -          Continue Vanc/Ceftriaxone/Ampicilin Day [**2-13**] for meningitis
   (empiric treatment)
   -          If patient not improving then LP correcting rapidly with FFP
   and vitamin K
   -          Follow up urine tox
   -          Follow renal recs to improve possible contribution of uremia
   -          Monitor glucose
   -          Monitor hemodynamics
   .
   # Lactic Acidosis: Most likely in the setting of fasting, being down
   and with low sugar and infection. Hemodinamics and vital signs do not
   suggest infection. Awaiting culture data. No data to support
   cardiogenic shock with tissue ischemia or abdominal pain and mesenteric
   ischemia. Lactate 3.3.
   - continue to trend lactate
   - treat infectious causes as above.
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones. Patient on diuretics before admission,
   so FeUrea more accurate and pointing to pre-renal. There were no castas
   in the urine to suggest ATN.
   .
   # FEVER: u/a negative, blood cultures sent.  CXR and non contrast CT
   abdomen / pelvis.  F/u blood cultures.
   -given mental status changes and inability to do an LP would feel
   compelled to treat for meningitis.  She has been given Ceftriaxone and
   vancomycin in the ED at meningitis doses and we will add ampicillin as
   well.  No other clear source for infection however given elevated
   lactate.  Given no clear GI source will d/c flagyl.
   -continue to monitor fever curve
   -has gotten 3L fluid to decrease lactate but never was hypotensive, has
   an EF of 20%, will hold off on additional fluids
   -vancomycin level low, so dose today
   .
   # Elevated LFTs: possibly from hypotension given elevated lactate,
   although never recorded hypotension.  Continue to trend.  RUQ
   ultrasound normal.
   -obtain abd ultrasound with doppler
   -given hep C, acute viral hepatitis is a possibility, not in acute
   phase of hep C but could be superimposed hep A or hep B, send hep A IgG
   and IgM and Hep B antibody panel.
   -tylenol level not elevated
   .
   # Macrocytic Anemia: send B12, and folate but could also be
   hypothyroidism.
   .
   # Hypoglycemia: not eating lately and previously had been on insulin.
   Will continue to monitor for hypoglycemia but unclear why she had a
   finger stick glucose of 20.  It is possible that this was erroneous as
   she is not on any glucose lowering medications and the glucose levels
   below 70 or so are not very accurate on finger stick glucometers.
   -continue to monitor, if hypoglycemic will send a serum glucose,
   insulin level and C peptide level
   -q6 finger sticks
   -possibly related to infection
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   -maintain euvolemia as long as BP is okay
   -TTE as above
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: no bleeding, INR 5.6, likely secondary to coumadin,
   recent dose increase and also possibly lack of nutrtition lately.
   .
   # FEN:  NPO for now given mental status
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (69 - 94) bpm
   BP: 170/101(118) {137/80(96) - 172/105(118)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 16 (14 - 16)mmHg
   SvO2: 72%
   Total In:
                                                                  1,956 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  1,410 mL
                                                                    266 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    321 mL
   Urine:
                                                                    844 mL
                                                                    321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   10.9 g/dL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:66.2/39.8/8.0, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found unresponsive without clear
   etiology. Hypoglycemic, hypothermic on presentation, also given narcan;
   her MS [**Last Name (Titles) 3333**]
t improve as fast as one would expect with glucose and
   narcan however. Also with increase WBC. Concern is for meningitis vs.
   stroke. LP could not be performed given her elevated INR on
   presentation and MRI also cannot be done d/t renal failure (CT head
   negative). Uremia could also be partial cause of her MS changes. Once
   these levels get within reasonable ranges would do both to evaluate for
   CNS pathology. Urine tox is negative. Received antibiotics in ED which
   should be continued. Patient MS now at her baseline per husband and
   significantly improved. Continue Vanc/Ceftriaxone/Ampicilin Day [**3-14**]
   for meningitis (empiric treatment).
   -          Would continue to give vit K, FFP to decrease INR and
   perform LP
   -          MRI once creatinine improved
   -          Monitor glucose
   -          Telemetry
   .
   # Lactic Acidosis: Initial concern was lactate elevated d/t being down,
   poor PO. Initially low suspicion of infection, however blood and urine
   cultures still pending. Another issue is cardiogenic failure- she has
   severe left ventricular hypokinesis and right sided severe global free
   wall hypokinesis, which could account for poor delivery and ischemia,
   leading to elevated lactate levels. Trending down since admission, will
   continue to monitor.
   - continue to trend lactate
   - treat infectious causes as above
   -IV fluids to maintain perfusion, pressors if not meeting MAP>60
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones, no casts in the urine to suggest ATN.
   Likely secondary to poor delivery/hypotension while being found down.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER: Currently urine is negative, toxicology negative and blood
   cultures pending. CXR and CT ab/pel without indication of infectious
   etiology. She is currently being treated for meningitis given inability
   to do LP, MRI. Continue current antibiotics, not on antiviral for HSV
   however since her MS has improved unlikely to be the cause.
   - Ceftriaxone and vancomycin, ampicillin
   -continue to monitor fever curve
   -has gotten 3L fluid to decrease lactate but never was hypotensive, has
   an EF of 20%, will hold off on additional fluids
   -vancomycin level low, so dose today
   .
   # Elevated LFTs: possibly from hypotension given elevated lactate,
   although never recorded hypotension.  Continue to trend.  RUQ
   ultrasound normal.
   -obtain abd ultrasound with doppler
   -given hep C, acute viral hepatitis is a possibility, not in acute
   phase of hep C but could be superimposed hep A or hep B, send hep A IgG
   and IgM and Hep B antibody panel.
   -tylenol level not elevated
   .
   # Macrocytic Anemia: send B12, and folate but could also be
   hypothyroidism.
   .
   # Hypoglycemia: not eating lately and previously had been on insulin.
   Will continue to monitor for hypoglycemia but unclear why she had a
   finger stick glucose of 20.  It is possible that this was erroneous as
   she is not on any glucose lowering medications and the glucose levels
   below 70 or so are not very accurate on finger stick glucometers.
   -continue to monitor, if hypoglycemic will send a serum glucose,
   insulin level and C peptide level
   -q6 finger sticks
   -possibly related to infection
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   -maintain euvolemia as long as BP is okay
   -TTE as above
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: no bleeding, INR 5.6, likely secondary to coumadin,
   recent dose increase and also possibly lack of nutrtition lately.
   .
   # FEN:  NPO for now given mental status
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 Hypoglycemic to 53- refused PO juice, received
 amp
   T 100.4 this AM, not as interactive as she previously was
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (69 - 94) bpm
   BP: 170/101(118) {137/80(96) - 172/105(118)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 16 (14 - 16)mmHg
   SvO2: 72%
   Total In:
                                                                  1,956 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  1,410 mL
                                                                    266 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    321 mL
   Urine:
                                                                    844 mL
                                                                    321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   10.9 g/dL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:66.2/39.8/8.0, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found unresponsive without clear
   etiology. Hypoglycemic, febrile on presentation, also given narcan; her
   MS [**Last Name (Titles) 3333**]
t improve as fast as one would expect with glucose and narcan
   if those were primary problem. Also with increase WBC. Concern is for
   meningitis vs. stroke. LP could not be performed given her elevated INR
   on presentation and MRI also cannot be done d/t renal failure (CT head
   negative). Uremia, toxic metabolic etiology could also be cause of her
   MS changes. Once these levels get within reasonable ranges would do
   both to evaluate for CNS pathology. Urine tox is negative. Received
   antibiotics in ED which should be continued. Patient MS now at her
   baseline per husband and significantly improved. Continue
   Vanc/Ceftriaxone/Ampicilin Day [**4-14**] for meningitis (empiric treatment).
   Of note, recent CXR with left lung opacity, atelectasis which could
   indicated aspiration however this may have been secondary to her
   unresponsive episode and not a cause for it. Her hypoglycemia as well
   could be in response to a metabolic/infectious process and not the
   primary insult.
   - Review patient medications with husband to evaluate whether she has
   been getting hyperglycemic medications at home inappropriately
   -          Monitor INR, would get LP once its wnl
   -          MRI once creatinine improved
   -          Monitor glucose
   .
   # Lactic Acidosis: Initial concern was lactate elevated d/t being down,
   poor PO. Initially low suspicion of infection, however blood and urine
   cultures still pending. Another issue is cardiogenic failure- she has
   severe left ventricular hypokinesis and right sided severe global free
   wall hypokinesis, which could account for poor delivery and ischemia,
   leading to elevated lactate levels. Trending down since admission, will
   continue to monitor. Also? any medications she is taking that could
   exacerbate an already cirrhotic/damaged liver d/t hepatitis C.
   - continue to trend lactate
   - treat infectious causes as above
   -IV fluids for maintenance of perfusion
   -lactulose for BM
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones. No casts on urine.  Likely secondary to
   poor delivery/hypotension while being found down.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER: Currently urine is negative, toxicology negative and blood
   cultures pending. CXR and CT ab/pel without indication of infectious
   etiology. She is currently being treated for meningitis given inability
   to do LP, MRI. Continue current antibiotics, not on antiviral for HSV
   however since her MS has improved or hasn
t gotten worse this would be
   an unlikely presentation.
   -would benefit from LP when INR appropriate
   - continue Ceftriaxone and vancomycin, ampicillin
   -continue to monitor fever curve for hypothermia
   -trend WBC
   -f/u CXR for resolution of atelectasis, opacity
   .
   # Elevated LFTs: Patient with known hepatitis C. Possibly also from
   hypotension although no record of hypotension since admission. RUQ
   ultrasound normal and CT without indication of intraabdominal abscess,
   infectious source. Continue to be elevated with increasing Tbili.
   Hepatitis panel negative and toxicology negative.
   -f/u pending labs
   -continue to trend enzymes
   -avoid hepatotoxic meds
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -consider D51/2NS for fluids
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   Significant cardiac disease on echo. Monitor for fluid overload.
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: With elevated INR but no evidence of bleed. Could be
   secondary to hepatic insufficiency.
   -trend INR
   -hold coumadin
   .
   # FEN:  D5
 NS IVF, replete electrolytes
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (69 - 94) bpm
   BP: 170/101(118) {137/80(96) - 172/105(118)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 16 (14 - 16)mmHg
   SvO2: 72%
   Total In:
                                                                  1,956 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  1,410 mL
                                                                    266 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    321 mL
   Urine:
                                                                    844 mL
                                                                    321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   10.9 g/dL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:66.2/39.8/8.0, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found unresponsive without clear
   etiology. Hypoglycemic, hypothermic on presentation, also given narcan;
   her MS [**Last Name (Titles) 3333**]
t improve as fast as one would expect with glucose and
   narcan however. Also with increase WBC. Concern is for meningitis vs.
   stroke. LP could not be performed given her elevated INR on
   presentation and MRI also cannot be done d/t renal failure (CT head
   negative). Uremia could also be partial cause of her MS changes. Once
   these levels get within reasonable ranges would do both to evaluate for
   CNS pathology. Urine tox is negative. Received antibiotics in ED which
   should be continued. Patient MS now at her baseline per husband and
   significantly improved. Continue Vanc/Ceftriaxone/Ampicilin Day [**3-14**]
   for meningitis (empiric treatment). Of note, recent CXR with left lung
   opacity, atelectasis which could indicated aspiration however this may
   have been secondary to her unresponsive episode and not a cause for it.
   -          Would continue to give vit K, FFP to decrease INR and
   perform LP
   -          MRI once creatinine improved
   -          Monitor glucose
   -          Telemetry
   .
   # Lactic Acidosis: Initial concern was lactate elevated d/t being down,
   poor PO. Initially low suspicion of infection, however blood and urine
   cultures still pending. Another issue is cardiogenic failure- she has
   severe left ventricular hypokinesis and right sided severe global free
   wall hypokinesis, which could account for poor delivery and ischemia,
   leading to elevated lactate levels. Trending down since admission, will
   continue to monitor.
   - continue to trend lactate
   - treat infectious causes as above
   -IV fluids for maintenance of perfusion
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones, no casts in the urine to suggest ATN.
   Likely secondary to poor delivery/hypotension while being found down.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER: Currently urine is negative, toxicology negative and blood
   cultures pending. CXR and CT ab/pel without indication of infectious
   etiology. She is currently being treated for meningitis given inability
   to do LP, MRI. Continue current antibiotics, not on antiviral for HSV
   however since her MS has improved unlikely to be the cause.
   -would benefit from LP when INR appropriate
   - continue Ceftriaxone and vancomycin, ampicillin
   -continue to monitor fever curve for hypothermia
   -trend WBC
   -renally dose antibiotics
   -f/u CXR for resolution of atelectasis, opacity
   .
   # Elevated LFTs: Possibly from hypotension although no record of
   hypotension since admission. RUQ ultrasound normal and CT without
   indication of intraabdominal abscess, infectious source. Continue to be
   elevated with increasing Tbili. Hepatitis panel negative and toxicology
   negative.
   -continue to trend enzymes
   -avoid hepatotoxic meds
   .
   # Macrocytic Anemia: send B12, and folate but could also be
   hypothyroidism.
   .
   # Hypoglycemia: not eating lately and previously had been on insulin.
   Will continue to monitor for hypoglycemia but unclear why she had a
   finger stick glucose of 20.  It is possible that this was erroneous as
   she is not on any glucose lowering medications and the glucose levels
   below 70 or so are not very accurate on finger stick glucometers.
   -continue to monitor, if hypoglycemic will send a serum glucose,
   insulin level and C peptide level
   -q6 finger sticks
   -possibly related to infection
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   -maintain euvolemia as long as BP is okay
   -TTE as above
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: no bleeding, INR 5.6, likely secondary to coumadin,
   recent dose increase and also possibly lack of nutrtition lately.
   .
   # FEN:  NPO for now given mental status
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (69 - 94) bpm
   BP: 170/101(118) {137/80(96) - 172/105(118)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 16 (14 - 16)mmHg
   SvO2: 72%
   Total In:
                                                                  1,956 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  1,410 mL
                                                                    266 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    321 mL
   Urine:
                                                                    844 mL
                                                                    321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   10.9 g/dL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:66.2/39.8/8.0, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-27 11:33:00 Physician Attending Progress Note
Chief Complaint: MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 year old female with CHF ef 20%, DM 2, PVD, HTN, COPD, CRI, DVT
   found down unresponsive and admitted with fevers/hypoglycemia. Has
   received abx for presumed meningitis; unable to get LP due to
   supratherapeutic INR on admission
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   BG 53 this am- got half amp D50W
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 09:37 AM
   Other medications:
   Synthroid, Plavix, [**Last Name (un) 2299**], lopressor, isosorbide
   Changes to medical and family history:
   Microvascular dementia/?Alzheimer's
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 95 (70 - 96) bpm
   BP: 164/107(121) {148/86(102) - 172/114(126)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,956 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    412 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    361 mL
   Urine:
                                                                    844 mL
                                                                    361 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Non -purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   113 K/uL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:35.7/37.5/3.7, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: RUQ abd US: no stones, n'l liver
   Assessment and Plan
   70 year old female admitted with MS changes
   Previously, had shown  slow improvement on empiric mengitis treatment
   to near-baseline, however,  MS appears worse today
   It is presumed an infectious insult caused her to worsen initially,
   less clear as to why MS is worse today. Continues to have episodic
   hypoglycyemia, of concern given mild transaminitis and +Hep C.
   Mental status changes
   *Hold on floor transfer given decreased MS this morning
   *Continue current abx and pan-culture
   *Despite ffp, INR remains high- not yet able to get LP
   *Consider MRI if not improved
   *Review of recent [**9-8**] GI note suggests she was supposed to be on
   lactulose/rifaximin suggesting there could be a contribution from
   hepatic encephalopathy. Will check ammonia level and may need lactulose
   though given her current MS this would likely need to be administered
   via NG
   Hypoglycemia:
   *Some recent reports that the patient may still be on glipizide and
   metformin (though not part of her OMR profile) and if so, this could
   explain why her hypoglycemia has been slow to resolve.  Decreased drug
   clearance
 she has both hepatic and renal insufficiency-- and
   underlying liver disease could contribute.
   *Frequent accuchecks/add dextrose to IVF's
   Acute on chronic renal failure: slight decrease in Cr, reasonable uop.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, off coumadin but INR remains
   therapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   Afternoon addendum: Pt has remained more confused than usual throughout
   the day, though minimally changed from this morning. She continues to
   have hypoglycemia: despite addition of to IVF, her  BG
s still
   sporadically drop and have accordingly increased accu check frequency
   to q2 hours. We discussed obtaining brain MRI, but are reluctant to
   administer sedating meds to get this done- will hold off tonight and
   reassess tomorrow am.
   Pt remains critically ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2127-9-27**] 17:48 ------

2127-09-27 11:33:00 Physician Attending Progress Note
Chief Complaint: MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 year old female with CHF ef 20%, DM 2, PVD, HTN, COPD, CRI, DVT
   found down unresponsive and admitted with fevers/hypoglycemia. Has
   received abx for presumed meningitis; unable to get LP due to
   supratherapeutic INR on admission
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   BG 53 this am- got half amp D50W
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 09:37 AM
   Other medications:
   Synthroid, Plavix, [**Last Name (un) 2299**], lopressor, isosorbide
   Changes to medical and family history:
   Microvascular dementia/?Alzheimer's
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 95 (70 - 96) bpm
   BP: 164/107(121) {148/86(102) - 172/114(126)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,956 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    412 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    361 mL
   Urine:
                                                                    844 mL
                                                                    361 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Non -purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   113 K/uL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:35.7/37.5/3.7, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: RUQ abd US: no stones, n'l liver
   Assessment and Plan
   70 year old female admitted with MS changes
   Had had slow improvement on empiric mengitis treatment to
   near-baseline, but MS appears worse today
   Cause for worsening unclear
   *Continue current abx
   *Pan-culture
   *Despite ffp, INR remains high- not yet able to get LP
   *Frequent accuchecks/add dextrose to IVF's
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, off coumadin but INR remains
   therapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2127-09-27 11:33:00 Physician Attending Progress Note
Chief Complaint: MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 year old female with CHF ef 20%, DM 2, PVD, HTN, COPD, CRI, DVT
   found down unresponsive and admitted with fevers/hypoglycemia. Has
   received abx for presumed meningitis; unable to get LP due to
   supratherapeutic INR on admission
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   BG 53 this am- got half amp D50W
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 09:37 AM
   Other medications:
   Synthroid, Plavix, [**Last Name (un) 2299**], lopressor, isosorbide
   Changes to medical and family history:
   Microvascular dementia/?Alzheimer's
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 95 (70 - 96) bpm
   BP: 164/107(121) {148/86(102) - 172/114(126)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,956 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    412 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    361 mL
   Urine:
                                                                    844 mL
                                                                    361 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Non -purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   113 K/uL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:35.7/37.5/3.7, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: RUQ abd US: no stones, n'l liver
   Assessment and Plan
   70 year old female admitted with MS changes
   Previously, had shown  slow improvement on empiric mengitis treatment
   to near-baseline, however,  MS appears worse today
   It is presumed an infectious insult caused her to worsen initially,
   less clear as to why MS is worse today. Continues to have episodic
   hypoglycyemia, of concern given mild transaminitis and +Hep C though US
   imaging did not show cirrhosis.
   *Continue current abx
   *Pan-culture
   *Despite ffp, INR remains high- not yet able to get LP
   *Frequent accuchecks/add dextrose to IVF's
   *Consider MRI if not better
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, off coumadin but INR remains
   therapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2127-09-27 11:33:00 Physician Attending Progress Note
Chief Complaint: MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 year old female with CHF ef 20%, DM 2, PVD, HTN, COPD, CRI, DVT
   found down unresponsive and admitted with fevers/hypoglycemia. Has
   received abx for presumed meningitis; unable to get LP due to
   supratherapeutic INR on admission
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-9-26**] 11:00 AM
 CALLED OUT
   BG 53 this am- got half amp D50W
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-26**] 07:05 PM
   Ampicillin - [**2127-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 09:37 AM
   Other medications:
   Synthroid, Plavix, [**Last Name (un) 2299**], lopressor, isosorbide
   Changes to medical and family history:
   Microvascular dementia/?Alzheimer's
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 95 (70 - 96) bpm
   BP: 164/107(121) {148/86(102) - 172/114(126)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,956 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    412 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    844 mL
                                                                    361 mL
   Urine:
                                                                    844 mL
                                                                    361 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Non -purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   113 K/uL
   38 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   144 mEq/L
   33.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
   WBC
   10.1
   9.0
   Hct
   33
   33.1
   33.8
   Plt
   154
   113
   Cr
   3.7
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   Other labs: PT / PTT / INR:35.7/37.5/3.7, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:487/843, Alk Phos / T Bili:110/1.7,
   Differential-Neuts:83.7 %, Lymph:12.6 %, Mono:3.5 %, Eos:0.2 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:1191 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: RUQ abd US: no stones, n'l liver
   Assessment and Plan
   70 year old female admitted with MS changes
   Previously, had shown  slow improvement on empiric mengitis treatment
   to near-baseline, however,  MS appears worse today
   It is presumed an infectious insult caused her to worsen initially,
   less clear as to why MS is worse today. Continues to have episodic
   hypoglycyemia, of concern given mild transaminitis and +Hep C.
   Mental status changes
   *Hold on floor transfer given decreased MS this morning
   *Continue current abx and pan-culture
   *Despite ffp, INR remains high- not yet able to get LP
   *Consider MRI if not improved
   *Review of recent [**9-8**] GI note suggests she was supposed to be on
   lactulose/rifaximin suggesting there could be a contribution from
   hepatic encephalopathy. Will check ammonia level and may need lactulose
   though given her current MS this would likely need to be administered
   via NG
   Hypoglycemia:
   *Some recent reports that the patient may still be on glipizide and
   metformin (though not part of her OMR profile) and if so, this could
   explain why her hypoglycemia has been slow to resolve.  Decreased drug
   clearance
 she has both hepatic and renal insufficiency-- and
   underlying liver disease could contribute.
   *Frequent accuchecks/add dextrose to IVF's
   Acute on chronic renal failure: slight decrease in Cr, reasonable uop.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, off coumadin but INR remains
   therapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2127-09-28 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-9-27**] 11:59 AM
 URINE CULTURE - At [**2127-9-27**] 11:59 AM
 NON-INVASIVE VENTILATION - START [**2127-9-27**] 08:45 PM
 FEVER - 101.9
F - [**2127-9-27**] 04:00 PM
   continued to be febrile yesterday, pan-cultured
   started on IV lopressor as refused to take PO
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-27**] 08:00 PM
   Ampicillin - [**2127-9-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.7
   HR: 67 (67 - 101) bpm
   BP: 154/87(103) {134/68(90) - 170/120(126)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                     80 mL
   Urine:
                                                                    636 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (429 - 489) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   10.2 g/dL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:87.5/50.1/11.3, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-28 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-9-27**] 11:59 AM
 URINE CULTURE - At [**2127-9-27**] 11:59 AM
 NON-INVASIVE VENTILATION - START [**2127-9-27**] 08:45 PM
 FEVER - 101.9
F - [**2127-9-27**] 04:00 PM
   continued to be febrile yesterday, pan-cultured
   started on IV lopressor as refused to take PO
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-27**] 08:00 PM
   Ampicillin - [**2127-9-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.7
   HR: 67 (67 - 101) bpm
   BP: 154/87(103) {134/68(90) - 170/120(126)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                     80 mL
   Urine:
                                                                    636 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (429 - 489) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   GEN: Laying in bed, does not answer questions but asks
can I have a
   glass of ice water?
   HEENT: NCAT patchy alopecia, MMM, mild scleral icterus
   CV: RRR S1S2  [**2-5**] nonradiating systolic murmur
   PULM: scant crackles bilaterally otherwise clear
   ABD: soft slightly distended, tympanitic, nontender +bs
   EXT: WWP, L foot slightly warmer and more edematous than R foot,
   SKIN: skin dry, cracked, no rashes
   NEURO: Does not respond to questions so unable to assess if oriented
   but pt is alert. PERRL EOMI, cannot appreciate asterixis, pt moves all
   extremities equally but does not get out of bed.
   Labs / Radiology
   50 K/uL
   10.2 g/dL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:87.5/50.1/11.3, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # Mental Status Changes: Patient was found to be much more responsive
   today during rounds, asking for water and shaking head yes/no to
   questions which is new for her on this admission. At this point her
   work-up largely points to a toxic-metabolic etiology for her MS
   changes. What is unclear is why she is actually more interactive today
   while her liver panel tests have almost doubled and worsened. MRI was
   attempted yesterday but she cannot tolerate contrast d/t CRF and will
   likely not be compliant with the exam unless sedated. EEG was also
   discussed however given today
s labs it is clear that hepatic failure
   is the likely cause. Since meningitis is much less likely at this
   point, would not pursue LP nor continue empiric treatment for
   meningitis. I would however cover for SBP which she is at risk for.
   -          Give lactulose
   -          Cover possible GI infectious source w/ceftriaxone, flagyl
   -          Follow fever curve
   # Transaminitis: Patient with known hepatitis C and today with
   significantly elevated LFTs, bilirubin. This is likely the etiology of
   her mental status changes and potentially the cause of her recent
   hypoglycemia, lactic acidosis and perhaps thrombocytopenia. Patient has
   known severe LV hypokinesis and R sided free wall hypokinesis, consider
   hepatic congestion, thrombosis. Would repeat US with doppler to further
   evaluate hepatobiliary vasculature and flow, cover for SBP with
   ceftriaxone and flagyl, continue lactulose and consult liver service.
   -consult liver service
   -continue lactulose
   -RUQ US w/doppler
   -cover for SBP
   -avoid hepatotoxic meds- hold tylenol unless fever greater than 101.9
   -trend LFTs, LA, bili, ammonia levels
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; Cr 3.6 and
   1L.  Likely secondary to poor delivery/hypotension while being found
   down. However creatinine has not improved despite fluid rescucitation.
   Consider spinning urine, microscopic eval for casts, or consult renal
   service. Although at this point unlikely consider hepatorenal syndrome.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER:. Consider GI etiology. Will d/c vanco and ampicillin and
   continue ceftriaxone and flagyl.
   -
   .
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -switch to NS as sugars increased
   .
   # CHF/CAD: Significant hypokinesis, TR may be playing a role in her
   liver pathology. Currently on beta blocker for hypertension and
   monitoring for fluid overload. Would benefit from CVP measurements.
   -check CVP
   -continue beta blocker
   -hold ASA, plavix
   .
   # Coagulopathy/Thrombocytopenia: Hepatic insufficiency at this point is
   much more likely than HUS, TTP/ITP etc. Both could be attributed to
   hepatitis infection, however would continue to work up DIC labs and
   follow CBC.
   -1 dose IV vit K
   -hold all anticoagulation
   -PM chem, lytes, coags
   -f/u pending labs
   .
   # FEN:  NS IVF, replete electrolytes, speech and swallow eval.
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  hold all anticoagulation, PPI
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-28 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-9-27**] 11:59 AM
 URINE CULTURE - At [**2127-9-27**] 11:59 AM
 NON-INVASIVE VENTILATION - START [**2127-9-27**] 08:45 PM
 FEVER - 101.9
F - [**2127-9-27**] 04:00 PM
   continued to be febrile yesterday, pan-cultured
   started on IV lopressor as refused to take PO
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-27**] 08:00 PM
   Ampicillin - [**2127-9-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.7
   HR: 67 (67 - 101) bpm
   BP: 154/87(103) {134/68(90) - 170/120(126)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                     80 mL
   Urine:
                                                                    636 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (429 - 489) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   10.2 g/dL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:87.5/50.1/11.3, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found unresponsive without clear
   etiology. Hypoglycemic, febrile on presentation, with increase WBC.
   Concern is for meningitis vs. stroke. LP could not be performed given
   her elevated INR on presentation and MRI also cannot be done d/t renal
   failure (CT head negative) and her inability to cooperate with exam.
   Uremia, toxic metabolic etiology could also be cause of her MS changes.
   Per husband her mental status is slighly worse than baseline. She is
   usually nonverbal but will respond to him at times.  An MRI at this
   point and/or EEG would be helpful in determining if she has a
   toxic-metabolic picture given her rising liver panel. Continue
   Vanc/Ceftriaxone/Ampicilin Day [**4-14**] for meningitis (empiric treatment).
   Also consider adding on additional GNR/anaerobic coverage for GI
   source.
   - Neuro consult and EEG
   -          Consider MRI if patient can tolerate
   -          Continue to monitor glucose
   -          Follow fever curve
   -          Continue lactulose
   .
   # Lactic Acidosis: Initial concern was lactate elevated d/t being down,
   poor PO. Also concern for infection given fever- Patient has known
   hepatitis. Another issue is cardiogenic failure- she has severe left
   ventricular hypokinesis and right sided severe global free wall
   hypokinesis, which could account for poor delivery and ischemia,
   leading to elevated lactate levels. Trending down since admission, will
   continue to monitor. Ammonia levels wnl.
   - continue to trend lactate
   - treat infectious causes as above
   -IV fluids for maintenance of perfusion
   -lactulose for BM
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones. No casts on urine.  Likely secondary to
   poor delivery/hypotension while being found down.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER:. CXR and CT ab/pel without indication of infectious etiology.
   She is currently being treated for meningitis given inability to do LP,
   MRI. With her increasing LFTs this may indicate a GI source. Continue
   current antibiotics.
   -would benefit from LP when INR appropriate
   - continue Ceftriaxone and vancomycin, ampicillin
   -continue to monitor fever curve for hypothermia
   -trend WBC
   -f/u CXR for resolution of atelectasis, opacity
   .
   # Elevated LFTs: Patient with known hepatitis C. Possibly also from
   hypotension although no record of hypotension since admission. RUQ
   ultrasound normal and CT without indication of intraabdominal abscess,
   infectious source. Continue to be elevated with increasing Tbili.
   Hepatitis panel negative and toxicology negative.
   -f/u pending labs
   -continue to trend enzymes
   -avoid hepatotoxic meds
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -switch to NS as sugars increased
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   Significant cardiac disease on echo. Monitor for fluid overload.
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: With elevated INR but no evidence of bleed. Could be
   secondary to hepatic insufficiency.  Labs likely erroneous this
   morning.
   -trend INR
   -hold coumadin
   .
   # FEN:  NS IVF, replete electrolytes
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-28 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-9-27**] 11:59 AM
 URINE CULTURE - At [**2127-9-27**] 11:59 AM
 NON-INVASIVE VENTILATION - START [**2127-9-27**] 08:45 PM
 FEVER - 101.9
F - [**2127-9-27**] 04:00 PM
   continued to be febrile yesterday, pan-cultured
   started on IV lopressor as refused to take PO
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ceftriaxone - [**2127-9-27**] 08:00 PM
   Ampicillin - [**2127-9-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.7
   HR: 67 (67 - 101) bpm
   BP: 154/87(103) {134/68(90) - 170/120(126)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                     80 mL
   Urine:
                                                                    636 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (429 - 489) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   10.2 g/dL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:87.5/50.1/11.3, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # MENTAL STATUS CHANGES: Patient found unresponsive without clear
   etiology. Hypoglycemic, febrile on presentation, also given narcan; her
   MS [**Last Name (Titles) 3333**]
t improve as fast as one would expect with glucose and narcan
   if those were primary problem. Also with increase WBC. Concern is for
   meningitis vs. stroke. LP could not be performed given her elevated INR
   on presentation and MRI also cannot be done d/t renal failure (CT head
   negative). Uremia, toxic metabolic etiology could also be cause of her
   MS changes. Once these levels get within reasonable ranges would do
   both to evaluate for CNS pathology. Urine tox is negative. Received
   antibiotics in ED which should be continued. Patient MS now at her
   baseline per husband and significantly improved. Continue
   Vanc/Ceftriaxone/Ampicilin Day [**4-14**] for meningitis (empiric treatment).
   Of note, recent CXR with left lung opacity, atelectasis which could
   indicated aspiration however this may have been secondary to her
   unresponsive episode and not a cause for it. Her hypoglycemia as well
   could be in response to a metabolic/infectious process and not the
   primary insult.
   - Review patient medications with husband to evaluate whether she has
   been getting hyperglycemic medications at home inappropriately
   -          Monitor INR, would get LP once its wnl
   -          MRI once creatinine improved
   -          Monitor glucose
   .
   # Lactic Acidosis: Initial concern was lactate elevated d/t being down,
   poor PO. Initially low suspicion of infection, however blood and urine
   cultures still pending. Another issue is cardiogenic failure- she has
   severe left ventricular hypokinesis and right sided severe global free
   wall hypokinesis, which could account for poor delivery and ischemia,
   leading to elevated lactate levels. Trending down since admission, will
   continue to monitor. Also? any medications she is taking that could
   exacerbate an already cirrhotic/damaged liver d/t hepatitis C.
   - continue to trend lactate
   - treat infectious causes as above
   -IV fluids for maintenance of perfusion
   -lactulose for BM
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; UA with
   proteinuria and trace keytones. No casts on urine.  Likely secondary to
   poor delivery/hypotension while being found down.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER: Currently urine is negative, toxicology negative and blood
   cultures pending. CXR and CT ab/pel without indication of infectious
   etiology. She is currently being treated for meningitis given inability
   to do LP, MRI. Continue current antibiotics, not on antiviral for HSV
   however since her MS has improved or hasn
t gotten worse this would be
   an unlikely presentation.
   -would benefit from LP when INR appropriate
   - continue Ceftriaxone and vancomycin, ampicillin
   -continue to monitor fever curve for hypothermia
   -trend WBC
   -f/u CXR for resolution of atelectasis, opacity
   .
   # Elevated LFTs: Patient with known hepatitis C. Possibly also from
   hypotension although no record of hypotension since admission. RUQ
   ultrasound normal and CT without indication of intraabdominal abscess,
   infectious source. Continue to be elevated with increasing Tbili.
   Hepatitis panel negative and toxicology negative.
   -f/u pending labs
   -continue to trend enzymes
   -avoid hepatotoxic meds
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -consider D51/2NS for fluids
   .
   # CHF: currently seems euvolemic given relatively clear lungs, mild
   peripheral edema, elevated JVP but significant TR on previous TR.
   Significant cardiac disease on echo. Monitor for fluid overload.
   .
   # CAD: No history of recent stents in our system but on aspirin and
   plavix for 3VD.
   -will rule out for MI, first set of enzymes slightly elevated troponin
   in acute setting.
   .
   # Coagulopathy: With elevated INR but no evidence of bleed. Could be
   secondary to hepatic insufficiency.
   -trend INR
   -hold coumadin
   .
   # FEN:  NS IVF, replete electrolytes
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  supratherapeutic on coumadin currently, no evidence of
   bleeding.
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-28 11:10:00 Physician Attending Progress Note
Chief Complaint: mental status change
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    Still with fever
    Temporarily with dextrose in IVF
s, stopped after she became
   hyperglycemic
   History obtained from Medical records, ICU housestaff
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 35.3
C (95.6
   HR: 71 (64 - 101) bpm
   BP: 168/110(123) {134/68(90) - 170/120(123)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    350 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                    250 mL
   Urine:
                                                                    636 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   RR (Spontaneous): 20
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   H&Npupils reactive and symmetric
   Lungs decreased BS, clear bilaterally
   CVRRR, no M/G/R
   Abd soft, +bs
   Ext no CCE
   Neuro: nods no to all questions ?flap
   Labs / Radiology
   10.2 g/dL
   50 K/uL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:83.6/46.2/10.7 (repeated), CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   70 year old female with CHF, DM2, COPD, CRI, HepC. Cognitive decline
   over several months (felt possible Alzheimer
s vs vascular).
   Admitted [**9-25**] with worsening mental status and fevers, treated
   empirically for meningitis as unable to get
   [**Hospital Unit Name 44**] course notable for waxing and [**Doctor Last Name 42**] mental status, persistent
   hypoglycemia (improved, albeit after gluocse infusion), now with
   worsening coagulopathy, thrombocyopenia, worsening LFT
   Constellation of symptoms concerning for hepatic failure with loss with
   synthetic function.
   Hepatic failure:
   *Start laculose for encephalopathy
   *Liver consult
   *Abdominal US/dopplers
   *Change antibiotics to provide more enteric coverage
   *Check hemolysis labs
   *Continue Q 2 hour accuchecks as dextrose recently dc
d from IVF
   Coagulopathy
   *No obvious bleeding but given high INR add vit K
   * check DIC labs, check smear
   *Heme consult for ?TTP given findings of schistocytes
   Renal failure
   *Unchanged renal function
   *Begin 1 liter fluid boluses to see if uop improves
   CHF: appears compensated. Monitor as she gets fluid challenges
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:  INR 10
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2127-09-28 11:10:00 Physician Attending Progress Note
Chief Complaint: mental status change
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    Still with fever
    Temporarily with dextrose in IVF
s, stopped after she became
   hyperglycemic
   History obtained from Medical records, ICU housestaff
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-9-25**] 09:22 PM
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-28**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 35.3
C (95.6
   HR: 71 (64 - 101) bpm
   BP: 168/110(123) {134/68(90) - 170/120(123)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,865 mL
                                                                    350 mL
   PO:
             TF:
   IVF:
                                                                  1,815 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    636 mL
                                                                    250 mL
   Urine:
                                                                    636 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   RR (Spontaneous): 20
   SpO2: 100%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   H&Npupils reactive and symmetric
   Lungs decreased BS, clear bilaterally
   CVRRR, no M/G/R
   Abd soft, +bs
   Ext no CCE
   Neuro: nods no to all questions ?flap
   Labs / Radiology
   10.2 g/dL
   50 K/uL
   137 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   67 mg/dL
   110 mEq/L
   149 mEq/L
   33.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
   WBC
   10.1
   9.0
   10.7
   Hct
   33
   33.1
   33.8
   33.5
   Plt
   154
   113
   50
   Cr
   3.7
   3.3
   3.6
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   Other labs: PT / PTT / INR:83.6/46.2/10.7 (repeated), CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:[**Telephone/Fax (1) 5662**], Alk Phos / T Bili:111/2.0,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:2.5 g/dL, LDH:2497 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   70 year old female with CHF, DM2, COPD, CRI, HepC. Cognitive decline
   over several months (felt possible Alzheimer
s vs vascular).
   Admitted [**9-25**] with worsening mental status and fevers, treated
   empirically for meningitis as unable to get
   [**Hospital Unit Name 44**] course notable for waxing and [**Doctor Last Name 42**] mental status, persistent
   hypoglycemia (improved, albeit after gluocse infusion), now with
   worsening coagulopathy, thrombocyopenia, worsening LFT
   Constellation of symptoms concerning for hepatic failure with loss with
   synthetic function.
   Hepatic insufficiency:
   *Start laculose for encephalopathy
   *Liver consult
   *Abdominal US/dopplers
   *Change antibiotics to provide more enteric coverage
   *Check hemolysis labs
   *Continue Q 2 hour accuchecks as dextrose recently dc
d from IVF
   Coagulopathy
   *No obvious bleeding but given high INR add vit K
   * check DIC labs, check smear
   *Heme consult for ?TTP given findings of schistocytes
   Renal failure
   *Unchanged renal function
   *Begin 1 liter fluid boluses to see if uop improves
   CHF: appears compensated. Monitor as she gets fluid challenges
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:  INR 10
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2127-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver recs: stop ceftriaxone and most unecessarly medications since
   they can be culpruit of fulminant hepatitis. [**Doctor Last Name **] thyroid hormone,
   since rapid replacement can cause hepatitis.
   Abdominal USG: good portal flow. : Very limited examination secondary
   to patient cooperation. Patent hepatic veins and IVC. To-and-fro flow
   within the main portal vein may indicate underlying hepatic congestion
   or an underlying primary hepatic process.
   Fibrinogen, FDP normal
   S&S eval tomorrow
   Patient much more awake and conversant
   1mg IV vit k
   HIT antibody sent
   Heme recs; DIC/Hemolysis labs q6-12 hrs. (Note OMR). DIC vs fulminant
   hepatitis.
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (63 - 74) bpm
   BP: 168/95(114) {137/72(96) - 173/112(123)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                    176 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    580 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: NAD, sitting comfortably
   HEENT: AT/NC, icterus, no LAD
   CV: S1 + S2, RRR 2/6 HSM at LLSB and at apex
   Lungs: poor inspirtory effort, minimal rhonchi at bases
   Abd: soft, NT, ND, +BS, no rebound, no gaurding
   Ext: 1+ pitting edema in the lower ext., darkening in lower ext.
   Neurologic: AAO x1 to self,
   Labs / Radiology
   38 K/uL
   11.0 g/dL
   112 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   66 mg/dL
   112 mEq/L
   150 mEq/L
   35.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   Plt
   154
   113
   50
   32
   42
   38
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # Mental Status Changes: Patient was found to be much more responsive
   today during rounds.  Pt with baseline dementia.  Pt responded to
   lactulose and rifaximin.  At this point her work-up largely points to a
   toxic-metabolic etiology for her MS changes.  Likely [**2-1**] hepatic
   enceph.  Pt afebrile.
   -          Cont lactulose and rifaximin
   -          Cont to monitor MS
   # Transaminitis: Patient with known hepatitis C.   Elevated were
   elvated, but now trending down.   This is likely the etiology of her
   mental status changes and potentially the cause of her recent
   hypoglycemia, lactic acidosis and perhaps thrombocytopenia. Patient has
   known severe LV hypokinesis and R sided free wall hypokinesis, consider
   hepatic congestion, thrombosis.   Liver consulted.
   -consult liver service
   - will check Hep E, Hep C vl,
   -continue lactulose and rifaximin
   -avoid hepatotoxic meds- hold tylenol unless fever greater than 101.9
   -trend LFTs
   .
   # Acute on chornic renal failure: Cr was 3.3 and treding down.  Likely
   secondary to poor delivery/hypotension.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # Hypoglycemia:  Improving, likely [**2-1**] hepatic failure.
   - will cont to monitor w/ FS
   .
   # CHF/CAD: Significant hypokinesis, TR may be playing a role in her
   liver pathology. Currently on beta [**Month/Day (2) 368**] for hypertension and
   monitoring for fluid overload.
   - will start Norvasc for hypertension
   -continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**]
   .
   # Coagulopathy/Thrombocytopenia: Hepatic insufficiency, very unlikely
   HUS, TTP/ITP or DIC given labs.  Fibrinogen wnl.  Pt
   -hold all anticoagulation
   -PM chem, lytes, coags
   -f/u pending labs
   .
   # FEN:  Pt tolerating oral diet, advance as tolerate, replete
   electrolytes,
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  hold all anticoagulation, PPI
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver recs: stop ceftriaxone and most unecessarly medications since
   they can be culpruit of fulminant hepatitis. [**Doctor Last Name **] thyroid hormone,
   since rapid replacement can cause hepatitis.
   Abdominal USG: good portal flow. : Very limited examination secondary
   to patient cooperation. Patent hepatic veins and IVC. To-and-fro flow
   within the main portal vein may indicate underlying hepatic congestion
   or an underlying primary hepatic process.
   Fibrinogen, FDP normal
   S&S eval tomorrow
   Patient much more awake and conversant
   1mg IV vit k
   HIT antibody sent
   Heme recs; DIC/Hemolysis labs q6-12 hrs. (Note OMR). DIC vs fulminant
   hepatitis.
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (63 - 74) bpm
   BP: 168/95(114) {137/72(96) - 173/112(123)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                    176 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    580 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: NAD, sitting comfortably
   CV: S1 + S2, RRR 2/6 HSM at LLSB and at apex
   Lungs: poor inspirtory effort, CTA- b/l
   Abd: soft, NT, ND, +BS
   Ext: 1+ pitting edema in the lower ext.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: AAO x1 to self
   Labs / Radiology
   38 K/uL
   11.0 g/dL
   112 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   66 mg/dL
   112 mEq/L
   150 mEq/L
   35.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   Plt
   154
   113
   50
   32
   42
   38
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # Mental Status Changes: Patient was found to be much more responsive
   today during rounds.  Pt with baseline dementia.  Pt responded to
   lactulose and rifaximin.  At this point her work-up largely points to a
   toxic-metabolic etiology for her MS changes.  Likely [**2-1**] hepatic
   enceph.  Pt afebrile.
   -          Cont lactulose and rifaximin
   -          Cont to monitor MS
   # Transaminitis: Patient with known hepatitis C.   Elevated were
   elvated, but now trending down.   This is likely the etiology of her
   mental status changes and potentially the cause of her recent
   hypoglycemia, lactic acidosis and perhaps thrombocytopenia. Patient has
   known severe LV hypokinesis and R sided free wall hypokinesis, consider
   hepatic congestion, thrombosis.   Liver consulted.
   -consult liver service
   - will check Hep E, Hep C vl,
   -continue lactulose and rifaximin
   -avoid hepatotoxic meds- hold tylenol unless fever greater than 101.9
   -trend LFTs
   .
   # Acute on chornic renal failure: Cr was 3.3 and treding down.  Likely
   secondary to poor delivery/hypotension.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # Hypoglycemia:  Improving, likely [**2-1**] hepatic failure.
   - will cont to monitor w/ FS
   .
   # CHF/CAD: Significant hypokinesis, TR may be playing a role in her
   liver pathology. Currently on beta [**Month/Day (2) 368**] for hypertension and
   monitoring for fluid overload.
   - will start Norvasc for hypertension
   -continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**]
   .
   # Coagulopathy/Thrombocytopenia: Hepatic insufficiency at this point is
   much more likely than HUS, TTP/ITP etc. Both could be attributed to
   hepatitis infection, however would continue to work up DIC labs and
   follow CBC.
   -1 dose IV vit K
   -hold all anticoagulation
   -PM chem, lytes, coags
   -f/u pending labs
   .
   # FEN:  NS IVF, replete electrolytes, speech and swallow eval.
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  hold all anticoagulation, PPI
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver recs: stop ceftriaxone and most unecessarly medications since
   they can be culpruit of fulminant hepatitis. [**Doctor Last Name **] thyroid hormone,
   since rapid replacement can cause hepatitis.
   Abdominal USG: good portal flow. : Very limited examination secondary
   to patient cooperation. Patent hepatic veins and IVC. To-and-fro flow
   within the main portal vein may indicate underlying hepatic congestion
   or an underlying primary hepatic process.
   Fibrinogen, FDP normal
   S&S eval tomorrow
   Patient much more awake and conversant
   1mg IV vit k
   HIT antibody sent
   Heme recs: tons of labs ordered; DIC/Hemolysis labs q6-12 hrs. (Note
   OMR). DIC vs fulminant hepatitis.
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (63 - 74) bpm
   BP: 168/95(114) {137/72(96) - 173/112(123)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                    176 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    580 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   11.0 g/dL
   112 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   66 mg/dL
   112 mEq/L
   150 mEq/L
   35.1 %
   10.1 K/uL
         [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   Plt
   154
   113
   50
   32
   42
   38
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver recs: stop ceftriaxone and most unecessarly medications since
   they can be culpruit of fulminant hepatitis. [**Doctor Last Name **] thyroid hormone,
   since rapid replacement can cause hepatitis.
   Abdominal USG: good portal flow. : Very limited examination secondary
   to patient cooperation. Patent hepatic veins and IVC. To-and-fro flow
   within the main portal vein may indicate underlying hepatic congestion
   or an underlying primary hepatic process.
   Fibrinogen, FDP normal
   S&S eval tomorrow
   Patient much more awake and conversant
   1mg IV vit k
   HIT antibody sent
   Heme recs: tons of labs ordered; DIC/Hemolysis labs q6-12 hrs. (Note
   OMR). DIC vs fulminant hepatitis.
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (63 - 74) bpm
   BP: 168/95(114) {137/72(96) - 173/112(123)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                    176 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    580 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   11.0 g/dL
   112 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   66 mg/dL
   112 mEq/L
   150 mEq/L
   35.1 %
   10.1 K/uL
         [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   Plt
   154
   113
   50
   32
   42
   38
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # Mental Status Changes: Patient was found to be much more responsive
   today during rounds, asking for water and shaking head yes/no to
   questions which is new for her on this admission. At this point her
   work-up largely points to a toxic-metabolic etiology for her MS
   changes. What is unclear is why she is actually more interactive today
   while her liver panel tests have almost doubled and worsened. MRI was
   attempted yesterday but she cannot tolerate contrast d/t CRF and will
   likely not be compliant with the exam unless sedated. EEG was also
   discussed however given today
s labs it is clear that hepatic failure
   is the likely cause. Since meningitis is much less likely at this
   point, would not pursue LP nor continue empiric treatment for
   meningitis. I would however cover for SBP which she is at risk for.
   -          Give lactulose
   -          Cover possible GI infectious source w/ceftriaxone, flagyl
   -          Follow fever curve
   # Transaminitis: Patient with known hepatitis C and today with
   significantly elevated LFTs, bilirubin. This is likely the etiology of
   her mental status changes and potentially the cause of her recent
   hypoglycemia, lactic acidosis and perhaps thrombocytopenia. Patient has
   known severe LV hypokinesis and R sided free wall hypokinesis, consider
   hepatic congestion, thrombosis. Would repeat US with doppler to further
   evaluate hepatobiliary vasculature and flow, cover for SBP with
   ceftriaxone and flagyl, continue lactulose and consult liver service.
   -consult liver service
   -continue lactulose
   -RUQ US w/doppler
   -cover for SBP
   -avoid hepatotoxic meds- hold tylenol unless fever greater than 101.9
   -trend LFTs, LA, bili, ammonia levels
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; Cr 3.6 and
   1L.  Likely secondary to poor delivery/hypotension while being found
   down. However creatinine has not improved despite fluid rescucitation.
   Consider spinning urine, microscopic eval for casts, or consult renal
   service. Although at this point unlikely consider hepatorenal syndrome.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER:. Consider GI etiology. Will d/c vanco and ampicillin and
   continue ceftriaxone and flagyl.
   -
   .
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -switch to NS as sugars increased
   .
   # CHF/CAD: Significant hypokinesis, TR may be playing a role in her
   liver pathology. Currently on beta blocker for hypertension and
   monitoring for fluid overload. Would benefit from CVP measurements.
   -check CVP
   -continue beta blocker
   -hold ASA, plavix
   .
   # Coagulopathy/Thrombocytopenia: Hepatic insufficiency at this point is
   much more likely than HUS, TTP/ITP etc. Both could be attributed to
   hepatitis infection, however would continue to work up DIC labs and
   follow CBC.
   -1 dose IV vit K
   -hold all anticoagulation
   -PM chem, lytes, coags
   -f/u pending labs
   .
   # FEN:  NS IVF, replete electrolytes, speech and swallow eval.
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  hold all anticoagulation, PPI
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Liver recs: stop ceftriaxone and most unecessarly medications since
   they can be culpruit of fulminant hepatitis. [**Doctor Last Name **] thyroid hormone,
   since rapid replacement can cause hepatitis.
   Abdominal USG: good portal flow. : Very limited examination secondary
   to patient cooperation. Patent hepatic veins and IVC. To-and-fro flow
   within the main portal vein may indicate underlying hepatic congestion
   or an underlying primary hepatic process.
   Fibrinogen, FDP normal
   S&S eval tomorrow
   Patient much more awake and conversant
   1mg IV vit k
   HIT antibody sent
   Heme recs; DIC/Hemolysis labs q6-12 hrs. (Note OMR). DIC vs fulminant
   hepatitis.
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-9-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (63 - 74) bpm
   BP: 168/95(114) {137/72(96) - 173/112(123)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                    176 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    580 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: NAD, sitting comfortably
   CV: S1 + S2, RRR 2/6 HSM at LLSB and at apex
   Lungs: poor inspirtory effort, CTA- b/l
   Abd: soft, NT, ND, +BS
   Ext: 1+ pitting edema in the lower ext.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: AAO x1 to self
   Labs / Radiology
   38 K/uL
   11.0 g/dL
   112 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   66 mg/dL
   112 mEq/L
   150 mEq/L
   35.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   Plt
   154
   113
   50
   32
   42
   38
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   Assesment: 70 yoF w/ a h/o CHF EF 20%, DMII, CAD , PVD, HTN, COPD, and
   CKD w/ a baseline Cr of 2.0 found unresponsive by her husband.
   [**Name (NI) 440**]:
   .
   # Mental Status Changes: Patient was found to be much more responsive
   today during rounds,  Pt responded to lactulose and rifaxim.  At this
   point her work-up largely points to a toxic-metabolic etiology for her
   MS changes. What is unclear is why she is actually more interactive
   today while her liver panel tests have almost doubled and worsened. MRI
   was attempted yesterday but she cannot tolerate contrast d/t CRF and
   will likely not be compliant with the exam unless sedated. EEG was also
   discussed however given today
s labs it is clear that hepatic failure
   is the likely cause. Since meningitis is much less likely at this
   point, would not pursue LP nor continue empiric treatment for
   meningitis. I would however cover for SBP which she is at risk for.
   -          Give lactulose
   -          Cover possible GI infectious source w/ceftriaxone, flagyl
   -          Follow fever curve
   # Transaminitis: Patient with known hepatitis C and today with
   significantly elevated LFTs, bilirubin. This is likely the etiology of
   her mental status changes and potentially the cause of her recent
   hypoglycemia, lactic acidosis and perhaps thrombocytopenia. Patient has
   known severe LV hypokinesis and R sided free wall hypokinesis, consider
   hepatic congestion, thrombosis. Would repeat US with doppler to further
   evaluate hepatobiliary vasculature and flow, cover for SBP with
   ceftriaxone and flagyl, continue lactulose and consult liver service.
   -consult liver service
   -continue lactulose
   -RUQ US w/doppler
   -cover for SBP
   -avoid hepatotoxic meds- hold tylenol unless fever greater than 101.9
   -trend LFTs, LA, bili, ammonia levels
   .
   # Acute on chornic renal failure: FeNA 1.8, FeUrea 19.1%; Cr 3.6 and
   1L.  Likely secondary to poor delivery/hypotension while being found
   down. However creatinine has not improved despite fluid rescucitation.
   Consider spinning urine, microscopic eval for casts, or consult renal
   service. Although at this point unlikely consider hepatorenal syndrome.
   -continue to trend Cr
   -IVF as needed
   -avoid nephrotoxins, renally dose all meds
   .
   # FEVER:. Consider GI etiology. Will d/c vanco and ampicillin and
   continue ceftriaxone and flagyl.
   -
   .
   .
   # Macrocytic Anemia: B12, folate appear to be elevated. TSH improved
   since last clinic note.
   .
   # Hypoglycemia: Not clear as to why patient is persistently
   hypoglycemic. Possibly due to infection or inappropriate administration
   of medications at home.
   -q2 finger sticks
   -possibly related to infection
   -switch to NS as sugars increased
   .
   # CHF/CAD: Significant hypokinesis, TR may be playing a role in her
   liver pathology. Currently on beta blocker for hypertension and
   monitoring for fluid overload. Would benefit from CVP measurements.
   -check CVP
   -continue beta blocker
   -hold ASA, plavix
   .
   # Coagulopathy/Thrombocytopenia: Hepatic insufficiency at this point is
   much more likely than HUS, TTP/ITP etc. Both could be attributed to
   hepatitis infection, however would continue to work up DIC labs and
   follow CBC.
   -1 dose IV vit K
   -hold all anticoagulation
   -PM chem, lytes, coags
   -f/u pending labs
   .
   # FEN:  NS IVF, replete electrolytes, speech and swallow eval.
   .
   # Access  L IJ central Line and 1xPIV
   .
   # PPx:  hold all anticoagulation, PPI
   .
   Code: Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-09-29 17:03:00 Physician Attending Progress Note
Chief Complaint: Altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2127-9-28**] 03:22 PM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2127-9-28**] 08:00 AM
   Ceftriaxone - [**2127-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Demented
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2127-9-29**] 05:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 65 (62 - 74) bpm
   BP: 167/100(115) {147/72(96) - 183/119(131)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,450 mL
                                                                  1,112 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                  1,012 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    815 mL
   Urine:
                                                                    625 mL
                                                                    515 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    825 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Loud), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered basilar, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   11.2 g/dL
   71 K/uL
   120 mg/dL
   3.1 mg/dL
   23 mEq/L
   2.9 mEq/L
   63 mg/dL
   111 mEq/L
   147 mEq/L
   35.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2127-9-25**]  01:49 PM
                             [**2127-9-25**]  07:19 PM
                             [**2127-9-26**]  05:49 AM
                             [**2127-9-27**]  04:00 AM
                             [**2127-9-28**]  03:36 AM
                             [**2127-9-28**]  04:20 PM
                             [**2127-9-28**]  11:12 PM
                             [**2127-9-29**]  04:19 AM
                             [**2127-9-29**]  03:20 PM
   WBC
   10.1
   9.0
   10.7
   9.8
   10.1
   10.1
   9.8
   Hct
   33
   33.1
   33.8
   33.5
   34.6
   34.2
   35.1
   35.0
   Plt
   154
   113
   50
   32
   42
   38
   71
   Cr
   3.7
   3.3
   3.6
   3.4
   3.3
   3.1
   TropT
   0.18
   0.17
   Glucose
   74
   38
   137
   140
   112
   120
   Other labs: PT / PTT / INR:42.1/40.9/4.6, CK / CKMB /
   Troponin-T:73/4/0.17, ALT / AST:556/838, Alk Phos / T Bili:115/2.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:5680 ng/mL, Fibrinogen:234 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.5 g/dL, LDH:976 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 HEPATITIS, CHRONIC VIRAL
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
 EMBOLIZATION, CHOLESTEROL (ATHEROEMBOLIZATION)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Mental status has improved coincident with treatment for hepatic
   encephalopathy. Story remains unclear, however.  Not previously known
   to have cirrhosis and echo is relatively unremarkable. Coags hard to
   interpret with coumadin rx and her recent bump in LFTs may be passive
   congestion.  regardless, she is gradually improving so will continue
   lactulose.   Creat remains elevated with UA suggseting ATn, also c/w
   some recent episode that might have induced hepatic inj.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2127-9-25**] 03:03 PM
   18 Gauge - [**2127-9-25**] 03:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, now held)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes